US07504517B2
Preparation of (4-methoxyphenyl)-[2-(4-methoxyphenyl)ethylamino]acetonitrile:
4-Methoxyphenethylamine (1.2 mL, 8.2 mmol) and methanol (0.5 mL) are added to the crude material obtained above. The solution is heated to 125° C. for 15 minutes in a microwave reaction vessel after which the solution is concentrated in vacuo and the crude product obtained is used without further purification.

reactant | 4-Methoxyphenethylamine | 8.2 mmol, 1.2 mL | COC1=CC=C(CCN)C=C1 | C9H13NO
solvent | methanol | 0.5 mL | CO | CH4O
product | (4-methoxyphenyl)-[2-(4-methoxyphenyl)ethylamino]acetonitrile | COC1=CC=C(C=C1)C(C#N)NCCC1=CC=C(C=C1)OC | C18H20N2O2
